US07244722B2
1-[2-(1,3-Benzodioxol-5-yloxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone
TMAD (0.207 g, 1.20 mmol) was added to a solution of 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (0.324 g, 1.00 mmol), triphenylphosphine (0.315 g, 1.20 mmol) and sesamol (0.173 g, 1.25 mmol) in THF (1 mL) at room temperature. After being stirred for 2 h, the reaction mixture was concentrated and put through a silica column using toluene/EtOAc (7:3) as eluent. Solvents were removed in vacuo and the resulting N-t-BOC derivative was treated with dichloromethane/TFA/H2O (50:45:5; 5 mL) for 15 min with stirring. The mixture was concentrated and the residue purified by chromatography on silica gel using EtOAc/HOAc/MeOH/H2O (20:3:3:2) as eluent. The product-containing fractions were concentrated, washed between dichloromethane/5% aqueous NaOH, and put through a silica column using dichloromethane/MeOH (8:2) to give 78 mg (23%) of the title compound. HRMS m/z calcd for C17H20N4O4 (M)+ 344.1485, found 344.1474.

reactant | TMAD | 1.20 mmol, 0.207 g | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 1.00 mmol, 0.324 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 1.20 mmol, 0.315 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sesamol | 1.25 mmol, 0.173 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-(1,3-Benzodioxol-5-yloxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone | 78 mg, 23% | O1COC2=C1C=CC(=C2)OCCN2C(C(=NC=C2)N2CCNCC2)=O | C17H20N4O4
